US06835469B2
2-Chloroquinoline (5.38 g, 32.9 mmol), and 3-methoxyphenylboronic acid (6.0 g, 39.5 mmol) were dissolved in 130 mL of ethylene glycol dimethyl ether. To the solution was added 44 mL of water of a 2M K2CO3 solution followed by triphenylphosphine (0.86, g 3.29 mmol) and palladium(II) acetate (0.184 g, 0.82 mmol,). The reaction mixture was stirred at reflux under N2 atmosphere overnight. The reaction mixture was cooled and the aqueous layer discarded. An additional 200 mL of ethyl acetate was added and the solvent was washed twice with 150 mL portions of brine. The organic layer was dried with anhydrous sodium sulfate, filtered and evaporated. The crude product was purified by column chromatography on a silica gel column using 20% ethyl acetate/hexanes as the eluants. The pure fraction was collected and the solvent was reduced to give 2-(3-methoxyphenyl)quinoline (7.90 g, 94.8% yield).

reactant | 2-Chloroquinoline | 32.9 mmol, 5.38 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 3-methoxyphenylboronic acid | 39.5 mmol, 6.0 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | water | 44 mL | O | H2O
reactant | K2CO3 | 2M | C(=O)([O-])[O-].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 130 mL | COCCOC | C4H10O2
catalyst | palladium(II) acetate | 0.82 mmol, 0.184 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 3.29 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-methoxyphenyl)quinoline | 7.90 g, 94.8% yield | COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C=C1 | C16H13NO
